*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:34:12 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "NAND4BBXL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  NAND4BBXL BN AN Y C D
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET BN 1.99625e-16
*|P (BN X 0 0.1000 0.6650)
*|I (Mmn1:g Mmn1 g X 0 0.2025 0.3525)
*|I (Mmp1:g Mmp1 g X 0 0.2025 1.0775)
*|S (BN:2 0.2025 0.6850)
*|S (BN:3 0.1450 0.6850)
*|S (BN:5 0.1005 0.6750)
*|S (BN:6 0.1450 0.6750)
C1 Mmp1:g VSS 3.25973e-17
C2 Mmn1:g VSS 3.2801e-17
C3 BN:5 VSS 1.05436e-16
C4 BN:2 VSS 1.76581e-17
C5 BN:3 VSS 1.11329e-17
Rl1 BN:2 BN:3 46.266560 $W=0.094
Rl2 BN:2 Mmn1:g 95.867973 $W=0.039
Rl3 Mmp1:g BN:2 105.483353 $W=0.039
Rk4 BN BN:5 0.005134 $W=0.122
Rk5 BN:6 BN:3 0.005134 $W=0.122
Rk6 BN:5 BN:6 0.023208 $W=0.12
*
*|NET AN 2.5753e-16
*|P (AN X 0 1.5000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 1.5025 0.3775)
*|I (Mmp0:g Mmp0 g X 0 1.5025 1.3725)
*|S (AN:2 1.4750 0.8450)
C6 Mmp0:g VSS 4.74796e-17
C7 Mmn0:g VSS 4.83788e-17
C8 AN:2 VSS 5.6314e-17
C9 AN VSS 1.05358e-16
Rl7 AN:2 Mmn0:g 139.153305 $W=0.039
Rl8 Mmp0:g AN:2 148.768692 $W=0.039
Rk9 AN AN:2 45.018120 $W=0.29
*
*|NET Y 3.28818e-16
*|P (Y X 0 1.1000 1.0450)
*|I (Mmn5:d Mmn5 d X 0 0.6250 0.3775)
*|I (Mmp5:d Mmp5 d X 0 0.7200 1.3725)
*|I (Mmp3:d Mmp3 d X 0 1.1625 1.3725)
*|S (Y:2 1.1175 1.2600)
C10 Mmp3:d VSS 1.5138e-17
C11 Mmp5:d VSS 5.97645e-17
C12 Mmn5:d VSS 1.10934e-16
C13 Y:2 VSS 3.50449e-17
C14 Y VSS 1.07936e-16
Rk10 Y:2 Y 0.113288 $W=0.122
Rk11 Y Mmn5:d 75.851921 $W=0.08
Rk12 Y:2 Mmp5:d 62.300938 $W=0.08
Rk13 Mmp3:d Y:2 62.056057 $W=0.1
*
*|NET C 3.30761e-16
*|P (C X 0 0.9000 0.8550)
*|I (Mmn4:g Mmn4 g X 0 0.8225 0.3775)
*|I (Mmp4:g Mmp4 g X 0 0.8225 1.3725)
*|S (C:2 0.8500 0.9000)
*|S (C:4 0.8500 0.9000)
C15 Mmp4:g VSS 5.52338e-17
C16 Mmn4:g VSS 8.72685e-17
C17 C:2 VSS 1.55438e-16
C18 C VSS 3.2821e-17
Rl14 C:2 Mmn4:g 160.307159 $W=0.039
Rl15 Mmp4:g C:2 127.614845 $W=0.039
Rk16 C C:4 0.010742 $W=0.23
Rk17 C:2 C:4 45.000000 $W=0.23
*
*|NET D 3.13804e-16
*|P (D X 0 0.5000 0.8550)
*|I (Mmn5:g Mmn5 g X 0 0.7175 0.3775)
*|I (Mmp5:g Mmp5 g X 0 0.6175 1.3725)
*|S (D:2 0.6400 1.0800)
*|S (D:4 0.5700 0.8550)
*|S (D:5 0.5700 1.0800)
*|S (D:6 0.6400 1.0800)
C19 Mmp5:g VSS 3.8917e-17
C20 Mmn5:g VSS 7.94349e-17
C21 D:5 VSS 6.49977e-17
C22 D:4 VSS 5.51938e-17
C23 D:2 VSS 7.52607e-17
Rl18 Mmn5:g D:2 232.257965 $W=0.039
Rl19 D:2 Mmp5:g 57.881535 $W=0.039
Rk20 D D:4 0.014136 $W=0.315
Rk21 D:4 D:5 0.054202 $W=0.265
Rk22 D:2 D:6 45.000000 $W=0.265
Rk23 D:5 D:6 0.014238 $W=0.315
*
*|NET n1 4.33017e-16
*|I (Mmn1:d Mmn1 d X 0 0.3275 0.3525)
*|I (Mmn3:g Mmn3 g X 0 1.0275 0.3775)
*|I (Mmp1:d Mmp1 d X 0 0.2950 1.0775)
*|I (Mmp3:g Mmp3 g X 0 1.0275 1.3725)
*|S (n1:2 1.0275 0.5600)
*|S (n1:3 0.9550 0.5600)
*|S (n1:5 0.3050 0.5600)
C24 Mmp3:g VSS 7.03689e-17
C25 Mmp1:d VSS 7.18194e-17
C26 Mmn3:g VSS 2.8513e-17
C27 Mmn1:d VSS 2.81927e-17
C28 n1:5 VSS 8.01239e-17
C29 n1:2 VSS 4.52918e-17
C30 n1:3 VSS 1.08708e-16
Rl24 n1:2 n1:3 48.118305 $W=0.114
Rl25 n1:2 Mmn3:g 37.341133 $W=0.039
Rl26 Mmp3:g n1:2 266.187286 $W=0.039
Rk27 n1:3 n1:5 0.457985 $W=0.08
Rk28 n1:5 Mmn1:d 75.143959 $W=0.09
Rk29 n1:5 Mmp1:d 62.344925 $W=0.09
*
*|NET n2 1.62358e-18
*|I (Mmn5:s Mmn5 s X 0 0.7700 0.3775)
*|I (Mmn4:d Mmn4 d X 0 0.7700 0.3775)
C31 Mmn5:s VSS 1.62358e-18
Rmw30 Mmn4:d Mmn5:s 0.001000 $W=1
*
*|NET n3 3.97837e-18
*|I (Mmn4:s Mmn4 s X 0 0.9250 0.3775)
*|I (Mmn3:d Mmn3 d X 0 0.9250 0.3775)
C32 Mmn4:s VSS 3.97837e-18
Rmw31 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET n4 3.98504e-18
*|I (Mmn3:s Mmn3 s X 0 1.1625 0.3775)
*|I (Mmn2:d Mmn2 d X 0 1.1625 0.3775)
C33 Mmn3:s VSS 3.98504e-18
Rmw32 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET n0 3.46684e-16
*|I (Mmn2:g Mmn2 g X 0 1.2975 0.3775)
*|I (Mmn0:d Mmn0 d X 0 1.5950 0.3775)
*|I (Mmp2:g Mmp2 g X 0 1.2975 1.3725)
*|I (Mmp0:d Mmp0 d X 0 1.6400 1.3725)
*|S (n0:2 1.3350 0.5750)
*|S (n0:5 1.6950 0.5750)
C34 Mmp0:d VSS 5.6998e-17
C35 Mmp2:g VSS 6.44863e-17
C36 Mmn0:d VSS 3.08909e-17
C37 Mmn2:g VSS 2.92647e-17
C38 n0:5 VSS 5.49869e-17
C39 n0:2 VSS 1.10057e-16
Rl33 n0:2 Mmn2:g 33.848213 $W=0.039
Rl34 Mmp2:g n0:2 251.155914 $W=0.039
Rk35 n0:5 n0:2 45.239498 $W=0.09
Rk36 n0:5 Mmn0:d 75.200249 $W=0.09
Rk37 Mmp0:d n0:5 62.535824 $W=0.09
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02973P	AS=0.0203P	PD=0.7U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=2.05e-07 sca=7.47547 scb=0.00467957 scc=5.27432e-05
Mmn5	Mmn5:d	Mmn5:g	Mmn5:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0087P	PD=0.57U	PS=0.41U
+ fw=1.45e-07 sa=1.4e-07 sb=9.25e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn4	Mmn4:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=2.45e-07 sb=8.2e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn3	Mmn3:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.03263P	PD=0.61U	PS=0.74U
+ fw=1.45e-07 sa=4.5e-07 sb=6.15e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03263P	AS=0.0232P	PD=0.74U	PS=0.61U
+ fw=1.45e-07 sa=7.2e-07 sb=3.45e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=9.25e-07 sb=1.4e-07 sca=8.0352 scb=0.00565402 scc=8.19771e-05
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0301P	PD=0.71U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.4e-07 sca=35.6444 scb=0.0398802 scc=0.00365724
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.115e-06 sca=11.5997 scb=0.00852753 scc=9.93622e-05
Mmp4	Mmp5:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0344P	PD=0.75U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=9.1e-07 sca=10.7035 scb=0.00787982 scc=9.84727e-05
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04837P	AS=0.0344P	PD=0.88U	PS=0.75U
+ fw=2.15e-07 sa=5.5e-07 sb=7.05e-07 sca=10.8626 scb=0.00795231 scc=9.85034e-05
Mmp2	Mmp3:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04837P	AS=0.0344P	PD=0.88U	PS=0.75U
+ fw=2.15e-07 sa=8.2e-07 sb=4.35e-07 sca=12.5842 scb=0.00978897 scc=0.000105974
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04945P	AS=0.0344P	PD=0.89U	PS=0.75U
+ fw=2.15e-07 sa=1.025e-06 sb=2.3e-07 sca=17.2741 scb=0.017802 scc=0.000385905
.ENDS
.END
