*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:32:25 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "NAND3BX1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  NAND3BX1 B C AN Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B 2.71177e-16
*|P (B X 0 0.5000 0.8200)
*|I (Mmn2:g Mmn2 g X 0 0.4825 0.4500)
*|I (Mmp2:g Mmp2 g X 0 0.4825 1.2850)
*|S (B:2 0.5100 0.8600)
*|S (B:5 0.5050 0.8600)
C1 Mmp2:g VSS 5.63128e-17
C2 Mmn2:g VSS 6.3295e-17
C3 B:5 VSS 4.69598e-17
C4 B:2 VSS 5.39973e-17
C5 B VSS 5.06123e-17
Rl1 B:2 Mmn2:g 94.922539 $W=0.039
Rl2 Mmp2:g B:2 75.691772 $W=0.039
Rk3 B B:5 0.023943 $W=0.1
Rk4 B:2 B:5 45.000000 $W=0.1
*
*|NET C 2.65187e-16
*|P (C X 0 0.3000 0.6600)
*|I (Mmn3:g Mmn3 g X 0 0.3325 0.4500)
*|I (Mmp3:g Mmp3 g X 0 0.2775 1.2850)
*|S (C:2 0.3050 0.8500)
C6 Mmp3:g VSS 4.59953e-17
C7 Mmn3:g VSS 4.7986e-17
C8 C:2 VSS 1.31524e-16
C9 C VSS 3.96815e-17
Rl5 Mmn3:g C:2 92.307693 $W=0.039
Rl6 C:2 Mmp3:g 79.945053 $W=0.039
Rk7 C C:2 45.113728 $W=0.1
*
*|NET AN 2.12501e-16
*|P (AN X 0 0.9000 0.9800)
*|I (Mmn0:g Mmn0 g X 0 0.8775 0.5075)
*|I (Mmp0:g Mmp0 g X 0 0.9275 1.1975)
*|S (AN:2 0.8900 0.8400)
C10 Mmp0:g VSS 3.87081e-17
C11 Mmn0:g VSS 3.6817e-17
C12 AN:2 VSS 9.35388e-17
C13 AN VSS 4.34374e-17
Rl8 AN:2 Mmn0:g 87.519424 $W=0.039
Rl9 Mmp0:g AN:2 84.615387 $W=0.039
Rk10 AN AN:2 45.093109 $W=0.09
*
*|NET Y 3.06837e-16
*|P (Y X 0 0.1250 1.1600)
*|I (Mmn3:d Mmn3 d X 0 0.2400 0.4500)
*|I (Mmp3:d Mmp3 d X 0 0.1850 1.2850)
*|I (Mmp2:d Mmp2 d X 0 0.5850 1.2850)
*|S (Y:2 0.1600 1.1000)
C14 Mmp2:d VSS 9.75397e-17
C15 Mmp3:d VSS 2.99206e-17
C16 Mmn3:d VSS 7.6031e-17
C17 Y VSS 1.03345e-16
Rk11 Y:2 Y 0.045576 $W=0.1225
Rk12 Y:2 Mmn3:d 37.993229 $W=0.0925
Rk13 Y Mmp3:d 31.133696 $W=0.09
Rk14 Mmp2:d Y:2 31.481686 $W=0.08
*
*|NET n1 0
*|I (Mmn3:s Mmn3 s X 0 0.4075 0.4500)
*|I (Mmn2:d Mmn2 d X 0 0.4075 0.4500)
Rmw15 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET n2 0
*|I (Mmn2:s Mmn2 s X 0 0.5625 0.4500)
*|I (Mmn1:d Mmn1 d X 0 0.5625 0.4500)
Rmw16 Mmn1:d Mmn2:s 0.001000 $W=1
*
*|NET n0 3.6153e-16
*|I (Mmn1:g Mmn1 g X 0 0.6425 0.4500)
*|I (Mmn0:d Mmn0 d X 0 0.9700 0.5075)
*|I (Mmp1:g Mmp1 g X 0 0.6875 1.2850)
*|I (Mmp0:d Mmp0 d X 0 1.0200 1.1975)
*|S (n0:2 0.7000 0.7750)
*|S (n0:5 0.9800 0.6700)
C18 Mmp0:d VSS 5.34934e-17
C19 Mmp1:g VSS 6.2833e-17
C20 Mmn0:d VSS 1.56914e-17
C21 Mmn1:g VSS 5.19753e-17
C22 n0:5 VSS 6.22413e-17
C23 n0:2 VSS 1.15295e-16
Rl17 n0:2 Mmn1:g 68.561943 $W=0.039
Rl18 Mmp1:g n0:2 103.377724 $W=0.039
Rk19 n0:5 n0:2 45.280159 $W=0.08
Rk20 n0:5 Mmn0:d 75.085381 $W=0.095
Rk21 Mmp0:d n0:5 62.419926 $W=0.08
*
*Instance Section
*
Mmn3	Mmn3:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0273P	PD=0.8U	PS=0.73U
+ fw=2.6e-07 sa=1.4e-07 sb=5.81058e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0273P	AS=0.0299P	PD=0.73U	PS=0.75U
+ fw=2.6e-07 sa=2.9e-07 sb=4.31058e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0299P	AS=0.04365P	PD=0.75U	PS=0.9U
+ fw=2.6e-07 sa=4.5e-07 sb=2.71058e-07 sca=11.0409 scb=0.0104003 scc=0.000454168
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.04365P	PD=0.57U	PS=0.9U
+ fw=1.45e-07 sa=6.85e-07 sb=1.4e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0624P	PD=1.06U	PS=1.1U
+ fw=3.9e-07 sa=1.4e-07 sb=6.82308e-07 sca=19.3275 scb=0.0211052 scc=0.000636468
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U
+ fw=3.9e-07 sa=3.45e-07 sb=4.77308e-07 sca=14.532 scb=0.0121946 scc=0.000242813
Mmp1	Mmp2:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06643P	PD=1.1U	PS=1.17U
+ fw=3.9e-07 sa=5.5e-07 sb=2.72308e-07 sca=14.3198 scb=0.0117685 scc=0.000238368
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.06643P	PD=0.71U	PS=1.17U
+ fw=2.15e-07 sa=7.9e-07 sb=1.4e-07 sca=20.3233 scb=0.0227744 scc=0.000772584
.ENDS
.END
