*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:34:27 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "NAND4BX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  NAND4BX2 C Y B AN D
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET C 3.28354e-16
*|P (C X 0 1.9000 0.8550)
*|I (Mmn3@1:g Mmn3@1 g X 0 1.7825 0.4150)
*|I (Mmp3@1:g Mmp3@1 g X 0 1.6325 1.2000)
*|S (C:7 1.7450 0.8675)
*|S (C:8 1.7450 0.8800)
*|S (C:9 1.9005 0.8675)
C1 Mmp3@1:g VSS 1.05806e-16
C2 Mmn3@1:g VSS 8.98046e-17
C3 C:9 VSS 6.87063e-17
C4 C:7 VSS 6.40368e-17
Rl1 Mmn3@1:g Mmp3@1:g 75.389435 $W=0.039
Rk2 C:8 C:7 0.002116 $W=0.38
Rk3 C:9 C 0.002116 $W=0.38
Rk4 C:9 C:7 0.049217 $W=0.2
Rk5 C:8 Mmp3@1:g 45.000000 $W=0.2
*
*|NET Y 6.59872e-16
*|P (Y X 0 1.3000 1.2350)
*|I (Mmn4@1:d Mmn4@1 d X 0 2.2950 0.4150)
*|I (Mmp1@1:d Mmp1@1 d X 0 0.9150 1.2000)
*|I (Mmp2:d Mmp2 d X 0 1.3250 1.2000)
*|I (Mmp3@1:d Mmp3@1 d X 0 1.7350 1.2000)
*|I (Mmp4:d Mmp4 d X 0 2.1450 1.2000)
*|S (Y:2 1.7350 1.1450)
*|S (Y:3 1.3075 1.1450)
*|S (Y:4 1.2100 1.1450)
C5 Mmp4:d VSS 8.2807e-17
C6 Mmp3@1:d VSS 3.60473e-17
C7 Mmp2:d VSS 4.03898e-17
C8 Mmp1@1:d VSS 5.30591e-17
C9 Mmn4@1:d VSS 1.91665e-16
C10 Y:4 VSS 1.54102e-16
C11 Y:3 VSS 3.29258e-17
C12 Y:2 VSS 6.88765e-17
Rk6 Y:3 Y 0.033675 $W=0.112
Rk7 Y:3 Y:2 0.338019 $W=0.08
Rk8 Y:4 Y:3 0.092664 $W=0.1
Rk9 Y:4 Mmn4@1:d 76.241768 $W=0.08
Rk10 Y:4 Mmp1@1:d 31.285938 $W=0.09
Rk11 Mmp2:d Y 31.011116 $W=0.095
Rk12 Y:2 Mmp3@1:d 31.058186 $W=0.08
Rk13 Y:2 Mmp4:d 31.375925 $W=0.08
*
*|NET B 2.90967e-16
*|P (B X 0 1.5000 0.8550)
*|I (Mmn2@1:g Mmn2@1 g X 0 1.1225 0.3850)
*|I (Mmp2:g Mmp2 g X 0 1.2225 1.2000)
*|S (B:7 1.4000 0.8700)
C13 Mmp2:g VSS 1.50913e-16
C14 Mmn2@1:g VSS 8.60912e-17
C15 B VSS 5.39623e-17
Rl14 Mmp2:g Mmn2@1:g 81.100769 $W=0.039
Rk15 B:7 B 0.031809 $W=0.2
Rk16 B:7 Mmp2:g 45.000000 $W=0.2
*
*|NET AN 1.45828e-16
*|P (AN X 0 0.3000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.2375 0.5875)
*|I (Mmp0:g Mmp0 g X 0 0.2375 1.0075)
*|S (AN:2 0.2000 0.7600)
C16 Mmp0:g VSS 2.57826e-17
C17 Mmn0:g VSS 1.88707e-17
C18 AN:2 VSS 5.71203e-17
C19 AN VSS 4.4054e-17
Rl17 AN:2 Mmn0:g 24.232828 $W=0.039
Rl18 Mmp0:g AN:2 39.617443 $W=0.039
Rk19 AN AN:2 45.092426 $W=0.1
*
*|NET D 2.5929e-16
*|P (D X 0 2.3000 0.8550)
*|I (Mmn4@1:g Mmn4@1 g X 0 2.1925 0.4150)
*|I (Mmp4:g Mmp4 g X 0 2.0425 1.2000)
*|S (D:7 2.2200 0.8450)
C20 Mmp4:g VSS 1.28095e-16
C21 Mmn4@1:g VSS 7.4721e-17
C22 D VSS 5.64744e-17
Rl20 Mmn4@1:g Mmp4:g 27.845711 $W=0.094
Rk21 D:7 D 0.029565 $W=0.172
Rk22 D:7 Mmp4:g 45.000000 $W=0.172
*
*|NET net118 2.69392e-16
*|I (Mmn0:d Mmn0 d X 0 0.3550 0.5875)
*|I (Mmn1@1:g Mmn1@1 g X 0 0.7125 0.3850)
*|I (Mmp0:d Mmp0 d X 0 0.4850 0.9600)
*|I (Mmp1@1:g Mmp1@1 g X 0 0.8125 1.2000)
*|S (net118:3 0.7400 0.8700)
*|S (net118:8 0.5600 0.8600)
C23 Mmp1@1:g VSS 8.04485e-17
C24 Mmp0:d VSS 1.07192e-17
C25 Mmn1@1:g VSS 7.0822e-17
C26 Mmn0:d VSS 4.89159e-17
C27 net118:8 VSS 2.70231e-17
C28 net118:3 VSS 3.1463e-17
Rl23 net118:3 Mmn1@1:g 36.622307 $W=0.094
Rl24 Mmp1@1:g net118:3 15.831431 $W=0.102
Rk25 net118:8 net118:3 45.086529 $W=0.1
Rk26 net118:8 Mmn0:d 75.228310 $W=0.1
Rk27 net118:8 Mmp0:d 62.063835 $W=0.1
*
*|NET net122 1.91708e-16
*|I (Mmn1@1:d Mmn1@1 d X 0 0.6200 0.3850)
C29 Mmn1@1:d VSS 1.91708e-16
*
*|NET net126 2.35515e-16
*|I (Mmn2@1:d Mmn2@1 d X 0 1.2325 0.3850)
*|I (Mmn3@1:s Mmn3@1 s X 0 1.8850 0.4150)
C30 Mmn3@1:s VSS 1.193e-16
C31 Mmn2@1:d VSS 1.16215e-16
Rk28 Mmn2@1:d Mmn3@1:s 150.395004 $W=0.1
*
*|NET net130 1.72047e-16
*|I (Mmn3@1:d Mmn3@1 d X 0 1.6825 0.4150)
C32 Mmn3@1:d VSS 1.72047e-16
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02755P	AS=0.04465P	PD=0.67U	PS=1.5U
+ fw=1.45e-07 sa=1e-07 sb=1.9e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn3@1	Mmn3@1:d	Mmn3@1:g	Mmn3@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.04095P	AS=0.0416P	PD=0.835U	PS=0.84U
+ M=2
+ fw=2.6e-07 sa=1.55e-07 sb=7.55e-07 sca=9.50447 scb=0.0081528 scc=0.00025289
Mmn4@1	Mmn4@1:d	Mmn4@1:g	Mmn3@1:d	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.039P	PD=0.84U	PS=0.82U
+ M=2
+ fw=2.6e-07 sa=5.65e-07 sb=3.45e-07 sca=9.50447 scb=0.0081528 scc=0.00025289
Mmn1@1	Mmn1@1:d	Mmn1@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.039P	AS=0.0416P	PD=0.82U	PS=0.84U	M=2
+ fw=2.6e-07 sa=1.4e-07 sb=7.7e-07 sca=8.51051 scb=0.00656948 scc=0.000151659
Mmn2@1	Mmn2@1:d	Mmn2@1:g	Mmn1@1:d	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0455P	AS=0.039P	PD=0.87U	PS=0.82U
+ M=2
+ fw=2.6e-07 sa=5.5e-07 sb=3.6e-07 sca=8.51051 scb=0.00656948 scc=0.000151659
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0515P	AS=0.0301P	PD=1.13U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=2.39535e-07 sca=56.1973 scb=0.0435219 scc=0.00667686
Mmp3@1	Mmp3@1:d	Mmp3@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=9.32308e-07 sb=7.55e-07 sca=14.1011 scb=0.0127228 scc=0.000754417
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0585P	PD=1.1U	PS=1.08U	M=2
+ fw=3.9e-07 sa=1.34231e-06 sb=3.45e-07 sca=15.7702 scb=0.0139777 scc=0.000757166
Mmp1@1	Mmp1@1:d	Mmp1@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0531P	PD=1.1U	PS=1.08U	M=2
+ fw=3.9e-07 sa=1.12308e-07 sb=1.575e-06 sca=14.4586 scb=0.0128281 scc=0.000754439
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=5.22308e-07 sb=1.165e-06 sca=14.1011 scb=0.0127228 scc=0.000754417
.ENDS
.END
